US04109088
In 200 ml. of anhydrous tetrahydrofuran was suspended 3.0 g. of lithium aluminum hydride and after adding slowly to the suspension with stirring a solution prepared by dissolving 14.5 g. of 2-(7-indenyloxymethyl)-4-phenylmorpholin -5-one in 100 ml. of anhydrous tetrahydrofuran, the mixture was stirred overnight at room temperature. To the reaction mixture obtained were added successively 3 ml. of water, 3 ml. of a 15% sodium hydroxide aqueous solution, and then 9 ml. of water to decompose excessive lithium aluminum hydride. Then, by treating the solution in a similar manner as in Example 7-(b), 10.6 g. of oily 2-(7-indenyloxymethyl)-4-phenylmorpholine was obtained.

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(7-indenyloxymethyl)-4-phenylmorpholin -5-one | C1C=CC2=CC=CC(=C12)OCC1CN(C(CO1)=O)C1=CC=CC=C1 | C20H19NO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 2-(7-indenyloxymethyl)-4-phenylmorpholine | C1C=CC2=CC=CC(=C12)OCC1CN(CCO1)C1=CC=CC=C1 | C20H21NO2
